US06919365B2
3-(2-Furylcarbonyl)-5,5-diphenylimidazolidine-2,4-dione (Compound 10)
5,5-Diphenylimidazolidine-2,4-dione (0.5 g) was dissolved in tetrahydrofuran (5 mL), and sodium hydride (60%, in oil) (87 mg) was added at 0° C. under ice-cooling. After stirred for 30 minutes, 2-furoyl chloride (235 mg) was added 0° C., and the mixture was stirred at room temperature for 2.5 hours. After water was added carefully, ethyl acetate (200 mL) was added, and the layers were separated. The resulting organic layer was washed with a saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was distilled off. Further purification by silica gel chromatography (hexane:ethyl acetate=2:1) afforded white powders. The resulting foam was recrystallized from IPE to obtain 273 mg of white crystals.

reactant | 5,5-Diphenylimidazolidine-2,4-dione | 0.5 g | C1(=CC=CC=C1)C1(C(NC(N1)=O)=O)C1=CC=CC=C1 | C15H12N2O2
reactant | sodium hydride | 87 mg | [H-].[Na+]
reactant | 2-furoyl chloride | 235 mg | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | water | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 3-(2-Furylcarbonyl)-5,5-diphenylimidazolidine-2,4-dione | 273 mg | O1C(=CC=C1)C(=O)N1C(NC(C1=O)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C20H14N2O4
